US05449812
f) N-tert-Butyl-5-formylamino-2-methoxycarbonylbenzenesulfonamide
6.5 ml of formic acid are carefully added at 0° C. to 13 ml of acetic anhydride. The mixture is subsequently heated at 50°-60° C. for 2 h. A solution of 16.0 g (0.056 mol) of N-tert-butyl-5-amino-2-methoxycarbonylbenzenesulfonamide in 50 ml of DMF is then added dropwise at 0° C. The cooling bath is removed and the mixture is stirred for a further 4 h at room temperature. The reaction mixture is then taken up in 800 ml of ethyl acetate and washed with three times 150 ml of water. The organic phase is dried over magnesium sulfate, the solvent is distilled off, and the residue is recrystallized from ethyl acetate/n-heptane. The product is N-tert-butyl-5-formylamino-2-methoxycarbonylbenzenesulfonamide (14.23 g, 82% of theory) which melts at 113°-114° C.

reactant | formic acid | 6.5 ml | C(=O)O | CH2O2
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | N-tert-butyl-5-amino-2-methoxycarbonylbenzenesulfonamide | 0.056 mol, 16.0 g | C(C)(C)(C)NS(=O)(=O)C1=C(C=CC(=C1)N)C(=O)OC | C12H18N2O4S
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | N-tert-Butyl-5-formylamino-2-methoxycarbonylbenzenesulfonamide | C(C)(C)(C)NS(=O)(=O)C1=C(C=CC(=C1)NC=O)C(=O)OC | C13H18N2O5S
